US07902367B2
Step 15b) Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzoate
Methyl 3-[3-(tert-butoxycarbonylamino)piperidin-1-yl]benzoate (154 mg, 0.461 mmol) was dissolved in a 10% hydrogen chloride/methanol solution (10 mL) and the solution was stirred at room temperature for 1 hour. Concentration of the reaction mixture resulted in 135 mg of a brown amorphous product. This product (118 mg), along with 2-(4-chlorophenyl)-4-methylthiazole-5-carboxylic acid (111 mg, 0.436 mmol) and 1-hydroxybenzotriazole monohydrate (80.1 mg, 0.523 mmol), was dissolved in N,N-dimethylformamide (5 mL). While this solution was chilled in an ice bath, 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride (100 mg, 0.523 mmol) and N-methylmorpholine (0.115 mL, 1.05 mmol) were added. The mixture was stirred at room temperature for 6 hours and 5% aqueous citric acid was added. The resulting mixture was extracted with ethyl acetate and the extract washed sequentially with a saturated aqueous sodium bicarbonate solution and brine. The washed product was dried over magnesium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=5:1->1:1) gave 112 mg of the desired compound as a pale yellow powder.

reactant | 2-(4-chlorophenyl)-4-methylthiazole-5-carboxylic acid | 0.436 mmol, 111 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)O | C11H8ClNO2S
reactant | 1-hydroxybenzotriazole monohydrate | 0.523 mmol, 80.1 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 3-(3-dimethylaminopropyl)-1-ethylcarbodiimide hydrochloride | 0.523 mmol, 100 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 1.05 mmol, 0.115 mL | CN1CCOCC1 | C5H11NO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Methyl 3-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]carbonylamino]piperidin-1-yl]benzoate | 112 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1 | C24H24ClN3O3S
